US08580824B2
To a solution of 4-[2-(4-benzyloxy-3-ethyl-5-methyl-phenyl)-oxazol-5-yl]-2-isobutyl-6-methyl-pyridine (29 mg, 66 μmol) in THF (0.5 mL) and EtOH (0.5 mL), Pd/C (10 mg, 10% Pd) is added. The mixture is stirred at rt under 1 bar of H2 for 16 h. The catalyst is filtered off and the filtrate is concentrated. The residue is again treated with Pd/C and H2 at rt for 24 h as described before. The catalyst is filtered off and the filtrate is evaporated. The crude product is purified on prep. TLC using heptane:EA 1:1 to give 2-ethyl-4-[5-(2-isobutyl-6-methyl-pyridin-4-yl)-oxazol-2-yl]-6-methyl-phenol (11 mg) as a pale yellow glass; LC-MS: tR=0.97*, [M+1]+=351.11; 1H NMR (CDCl3): δ 0.99 (d, J=6.5 Hz, 6 H), 1.33 (t, J=7.5 Hz, 3 H), 2.12-2.22 (m, 1 H), 2.37 (s, 3 H), 2.63 (s, 3 H), 2.66-2.79 (m, 4 H), 5.35 (s br, 1 H), 7.21 (s, 1 H), 7.29 (s, 1H), 7.58 (s, 1 H), 7.80 (s, 2 H).

reactant | 4-[2-(4-benzyloxy-3-ethyl-5-methyl-phenyl)-oxazol-5-yl]-2-isobutyl-6-methyl-pyridine | 66 μmol, 29 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C=1OC(=CN1)C1=CC(=NC(=C1)C)CC(C)C)CC | C29H32N2O2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | EtOH | 0.5 mL | CCO | C2H6O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 2-ethyl-4-[5-(2-isobutyl-6-methyl-pyridin-4-yl)-oxazol-2-yl]-6-methyl-phenol | 11 mg | C(C)C1=C(C(=CC(=C1)C=1OC(=CN1)C1=CC(=NC(=C1)C)CC(C)C)C)O | C22H26N2O2
